US07579368B2
To a solution of 5-bromo-4-ethoxy-2-fluoro-benzonitrile (2 g, 8.2 mmol) in 16.5 mL of dioxane was added dimethylamine (16.5 mL, 33 mmol, 2.0 M in tetrahydrofuran). The reaction was stirred at 80° C. overnight. The reaction mixture was concentrated in vacuo. Purification of the crude residue by flash column chromatography (silica gel, eluting with a gradient of ethyl acetate in hexanes) gave 5-bromo-2-dimethylamino-4-ethoxy-benzonitrile (1.95 g, 88%). LC-MS: 269.2 [(M+H)+].

reactant | 5-bromo-4-ethoxy-2-fluoro-benzonitrile | 8.2 mmol, 2 g | BrC=1C(=CC(=C(C#N)C1)F)OCC | C9H7BrFNO
reactant | dimethylamine | 33 mmol, 2.0 M, 16.5 mL | CNC | C2H7N
solvent | dioxane | 16.5 mL | O1CCOCC1 | C4H8O2
product | 5-bromo-2-dimethylamino-4-ethoxy-benzonitrile | 1.95 g, 88% | BrC=1C(=CC(=C(C#N)C1)N(C)C)OCC | C11H13BrN2O
